US07456164B2
N-[(4-{4-[(1-cyclobutylpiperidin-4-yl)oxy]phenyl}tetrahydro-2H-pyran-4-yl)methyl]pyridin-3-amine
The title compound (28 mg, 18%) was prepared from 1-(4-{4-[(1-cyclobutylpiperidin-4-yl)oxy]phenyl}tetrahydro-2H-pyran-4-yl)methanamine and 3-iodopyridine similarly to the procedure used for example 153. 1H NMR (400 MHz, CDCl3) δ 1.66-1.94 (m, 8H), 2.01-2.06 (m, 4H), 2.17-2.20 (m, 4H), 2.60-2.68 (m, 2H), 2.76 (m, 1H), 3.22-3.27 (m, 3H), 3.57 (t, 2H), 3.77-3.81 (m, 2H), 4.32 (m, 1H), 6.73 (d, 1H), 6.92 (d, 2H), 6.99 (m, 1H), 7.23 (d, 2H), 7.88 (m, 2H). HRMS ESI+ m/z 422.2789 [MH]+.

reactant | 1-(4-{4-[(1-cyclobutylpiperidin-4-yl)oxy]phenyl}tetrahydro-2H-pyran-4-yl)methanamine | C1(CCC1)N1CCC(CC1)OC1=CC=C(C=C1)C1(CCOCC1)CN | C21H32N2O2
reactant | 3-iodopyridine | IC=1C=NC=CC1 | C5H4IN
product | N-[(4-{4-[(1-cyclobutylpiperidin-4-yl)oxy]phenyl}tetrahydro-2H-pyran-4-yl)methyl]pyridin-3-amine | 28 mg, 18% | C1(CCC1)N1CCC(CC1)OC1=CC=C(C=C1)C1(CCOCC1)CNC=1C=NC=CC1 | C26H35N3O2
